US06495542B1
A mixture of 2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-carbonylbenzoic acid (200 mg), 4-amino-1-tert-butoxycarbonyl-2-methyl-1H-benzimidazole (152 mg), WSCD·HCl [water soluble carbodiimide, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 141 mg] and 1-hydroxybenzotiazole (100 mg) in N,N-dimethylformamide (5 ml) was stirred at room temperature overnight, and the mixture was diluted with ethyl acetate. The solution was washed successively with saturated aqueous sodium hydrogencarbonate solution, water, and brine and dried over magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography using chloroform as an eluent to give 2-methoxy-N-[2-methyl-1-(tert-butoxycarbonyl)-1H-benzimidazol-4-yl]-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-carbonylbenzamide (185 mg).

reactant | 2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-carbonylbenzoic acid | 200 mg | COC1C(C(=O)O)=CC=C(C1=C=O)N1CCCCC2=C1C=CC=C2 | C19H19NO4
reactant | 4-amino-1-tert-butoxycarbonyl-2-methyl-1H-benzimidazole | 152 mg | NC1=CC=CC=2N(C(=NC21)C)C(=O)OC(C)(C)C | C13H17N3O2
reactant | 1-hydroxybenzotiazole | 100 mg | OS1C=NC2=C1C=CC=C2 | C7H7NOS
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-N-[2-methyl-1-(tert-butoxycarbonyl)-1H-benzimidazol-4-yl]-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-carbonylbenzamide | 185 mg | COC1C(C(=O)NC2=CC=CC=3N(C(=NC32)C)C(=O)OC(C)(C)C)=CC=C(C1=C=O)N1CCCCC3=C1C=CC=C3 | C32H34N4O5
